US05753664
4-Acetyl-2-t-butyl-5-dimethylamino-3(2H)-pyridazinone
In toluene was dissolved 2-t-butyl-5-dimethylamino-4-(1-hydroxy)ethyl-3(2H)-pyridazinone (3.4 g) followed by addition of active manganese dioxide (17.0 g), and the mixture was stirred at 80° C. for 24 hours. The oxidizing agent was filtered off and the filtrate was concentrated. The residue was washed with n-hexane and diethyl ether and dried. Yellow powder, 2.5 g. 1 H-NMR (CDCl3) δ: 1.62(9H,s), 2.63(3H,s), 2.92(6H,s), 7.62(1H,s).

reactant | 2-t-butyl-5-dimethylamino-4-(1-hydroxy)ethyl-3(2H)-pyridazinone | 3.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)C(C)O)N(C)C | C12H21N3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 17.0 g | [O-2].[O-2].[Mn+4]
product | 4-Acetyl-2-t-butyl-5-dimethylamino-3(2H)-pyridazinone | C(C)(=O)C=1C(N(N=CC1N(C)C)C(C)(C)C)=O | C12H19N3O2
